US07601856B2
Following the procedure of Example 1, 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (1.1 g, 5.0 mmol) and cyclohexylacetyl chloride (0.88 g, 5.5 mmol) in pyridine (10 mL) provided 2-cyclohexyl-N-[6,7,8,9,10,11-hexahydro-benzo[b]-cycloocta[d]furan-2-yl]acetamide (1.3 g). Mp 180-181° C.;MS (El) m/z 340 ([M+H]+); Anal. Calcd. for C22H29NO2: C, 77.84; H, 8.61; N, 4.13; Found: C, 77.96; H, 8.70; N, 4.16.

reactant | 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine | 5.0 mmol, 1.1 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)N | C14H17NO
reactant | cyclohexylacetyl chloride | 5.5 mmol, 0.88 g | C1(CCCCC1)CC(=O)Cl | C8H13ClO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-cyclohexyl-N-[6,7,8,9,10,11-hexahydro-benzo[b]-cycloocta[d]furan-2-yl]acetamide | 1.3 g | C1(CCCCC1)CC(=O)NC1=CC2=C(OC3=C2CCCCCC3)C=C1 | C22H29NO2
